US07977344B2
4-(Tetrahydro-3-furanyl)-1-butanol
All batches of the material were combined, loaded in dichloromethane and purified on silica (100 g) using a 0-25% gradient of ethyl acetate-cyclohexane over 40 mins using a Flashmaster II. The appropriate fractions were combined and evaporated in vacuo, a solution of the residue (3.42 g, 14.9 mmol) and 10% palladium on carbon (684 mg) in ethyl acetate (100 ml) was hydrogenated at atmospheric pressure and room temperature for 24 hours. The catalyst was filtered through Celite and the filtrate concentrated in vacuo to give the title compound as a yellow oil (2.22 g).

reactant | ethyl acetate | 100 ml | C(C)(=O)OCC | C4H8O2
solvent | dichloromethane | ClCCl | CH2Cl2
catalyst | palladium on carbon | 684 mg | [Pd] | Pd
product | 4-(Tetrahydro-3-furanyl)-1-butanol | 2.22 g | O1CC(CC1)CCCCO | C8H16O2
